US06849625B2
Using analogous procedures to those described in the third paragraph of the portion of Note [6] in Example 2 that is concerned with the preparation of 7-amino-5-fluorobenzofuran, ethyl 3-allyl-6-chloro-2-hydroxybenzoate was reacted with ozone and the resultant product, 2-(4-chloro-3-ethoxycarbonyl-2-hydroxyphenyl)acetaldehyde, was treated with 85% phosphoric acid to give ethyl 6-chlorobenzofuran-7-carboxylate (5.9 g); NMR Spectrum: (DMSOd6) 1.35 (t, 3H), 4.45 (q, 2H), 7.10 (d, 1H), 7.45 (d, 1H), 7.85 (d, 1H), 8.15 (d, 1H).

reactant | 7-amino-5-fluorobenzofuran | NC1=CC(=CC=2C=COC21)F | C8H6FNO
reactant | ethyl 3-allyl-6-chloro-2-hydroxybenzoate | C(C=C)C=1C(=C(C(=O)OCC)C(=CC1)Cl)O | C12H13ClO3
reactant | ozone | O=[O+][O-] | O3
reactant | 2-(4-chloro-3-ethoxycarbonyl-2-hydroxyphenyl)acetaldehyde | ClC1=C(C(=C(C=C1)CC=O)O)C(=O)OCC | C11H11ClO4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | ethyl 6-chlorobenzofuran-7-carboxylate | 5.9 g | ClC1=C(C2=C(C=CO2)C=C1)C(=O)OCC | C11H9ClO3
